US06399643B1
a) 4-(3-(2-Methylphenyl)ureido)benzyl alcohol
30.6 g (200 mmol) of 4-nitrobenzyl alcohol were hydrogenated with ice cooling over 1.0 g of palladium/carbon (10% strength; 50% water) in 500 ml of methyl tert-butyl ether. After the absorption of hydrogen was complete, the catalyst was filtered off and 24.8 ml (200 mmol) of 2-methylphenyl isocyanate were added to the filtrate at 15° C. with stirring in the course of 30 minutes. The precipitated solid was filtered off with suction and washed with methyl tert-butyl ether. Yield: 46.9 g (92%).

reactant | 4-nitrobenzyl alcohol | 200 mmol, 30.6 g | [N+](=O)([O-])C1=CC=C(CO)C=C1 | C7H7NO3
reactant | 2-methylphenyl isocyanate | 200 mmol, 24.8 ml | CC1=C(C=CC=C1)N=C=O | C8H7NO
solvent | methyl tert-butyl ether | 500 ml | C(C)(C)(C)OC | C5H12O
catalyst | palladium/carbon | 1.0 g | [Pd] | Pd
product | 4-(3-(2-Methylphenyl)ureido)benzyl alcohol | CC1=C(C=CC=C1)NC(NC1=CC=C(CO)C=C1)=O | C15H16N2O2
